US05227486
Preparation of 1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-benzimidazole.
A mixture of 450 g (1.50 moles) of 8-(2-pyrimidinyl)-8-aza-5-azoniaspiro[4,5]decane bromide, 177 g (1.50 moles) of benzimidazole and 307 g (2.25 moles) of potassium carbonate in 2 l of dimethylformamide is heated to 140°-145° C. for 14 hours. The mixture is evaporated under vacuum, chloroform is added, the solution is washed with water, dried over sodium sulfate and evaporated under vacuum, and 457 g (91%) of 1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-benzimidazole, with a melting point of 85°-88° C., are obtained.

reactant | 8-(2-pyrimidinyl)-8-aza-5-azoniaspiro[4,5]decane bromide | 1.50 moles, 450 g | [Br-].N1=C(N=CC=C1)N1CC[N+]2(CCCC2)CC1
reactant | benzimidazole | 1.50 moles, 177 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | potassium carbonate | 2.25 moles, 307 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 2 l | CN(C=O)C | C3H7NO
product | 1-{4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl}-1H-benzimidazole | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1C=NC2=C1C=CC=C2 | C19H24N6
